US06818663B2
To a stirred solution of 1-(2,3-dihydro-benzofuran-5-yl)-ethanone (2.5 g, 15.4 mmol) (Lancaster) in dioxane (2 mL) was added dropwise a solution of bromine (2.96 g, 18.5 mmol) in dioxane (60 mL). After stirring 15 minute the mixture was concentrated in vacuo and the residue was purified by chromatography on silica gel (2:1 hexane-dichloromethane) to provide 1.41 g (38%) of 2-bromo-1-(2,3-dihydro-benzofuran-5-yl)-ethanone.

reactant | 1-(2,3-dihydro-benzofuran-5-yl)-ethanone | 15.4 mmol, 2.5 g | O1CCC2=C1C=CC(=C2)C(C)=O | C10H10O2
reactant | bromine | 18.5 mmol, 2.96 g | BrBr | Br2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 2-bromo-1-(2,3-dihydro-benzofuran-5-yl)-ethanone | 1.41 g, 38% | BrCC(=O)C=1C=CC2=C(CCO2)C1 | C10H9BrO2
